US05760032
9-Hydroxymethyl-4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine (0.5 g) which can be synthesized by a known method (Japanese Patent Unexamined Publication No. 102698/1974) was stirred with 5% hydrochloric acid (10 ml) at 60° C. overnight. Then, sodium hydrogencarbonate was added to the reaction mixture to make the mixture alkaline. Chloroform and indole-2-carbonyl chloride (0.35 g) were added, and the mixture was stirred under ice-cooling for 3 hours. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel thin-layer chromatography (developing solvent:ethyl acetate) and recrystallized from ethyl acetate-hexane to give 0.015 g of N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-3-hydroxymethyl[1,2,4]triazol-5-ylmethyl)indole-2-carboxamide.

reactant | 9-Hydroxymethyl-4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine | 0.5 g | OCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(S1)CC | C17H15ClN4OS
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | indole-2-carbonyl chloride | 0.35 g | N1C(=CC2=CC=CC=C12)C(=O)Cl | C9H6ClNO
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-3-hydroxymethyl[1,2,4]triazol-5-ylmethyl)indole-2-carboxamide | 0.015 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2CNC(=O)C=2NC3=CC=CC=C3C2)CO)C=CC=C1 | C26H22ClN5O3S
